US07393873B2
Under a nitrogen atmosphere, 2,4-dichlorophenol (500 mg, 3.067 mmol) was diluted in DMF (15 mL). Cesium carbonate (3 g, 9.202 mmol) was then added followed by 2,5-difluoronitro-benzene (976 mg, 6.135 mmol). The reaction was heated to 90° C. and allowed to stir for 12 hours. Then, 500 uL of water was added and was heated for an additional 4 hours. The reaction was then quenched with water (30 mL) and extracted with ethyl acetate (3×60 mL). The organic extracts were dried over sodium sulfate and concentrated. Silica gel chromatography (5%-20% EtOAc/hexanes) gave 1-(2,4-dichlorophenoxy)-3-fluoro-2-nitrobenzene (257 mg, 30%).

reactant | 2,4-dichlorophenol | 3.067 mmol, 500 mg | ClC1=C(C=CC(=C1)Cl)O | C6H4Cl2O
reactant | Cesium carbonate | 9.202 mmol, 3 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,5-difluoronitro-benzene | 6.135 mmol, 976 mg | FC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | water | 500 uL | O | H2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 1-(2,4-dichlorophenoxy)-3-fluoro-2-nitrobenzene | 257 mg, 30% | ClC1=C(OC2=C(C(=CC=C2)F)[N+](=O)[O-])C=CC(=C1)Cl | C12H6Cl2FNO3
